US05523378
Synthesis of 4-Hydroxyphenyl Carbinol
To a five-gallon stainless steel reactor, a solution of 4-hydroxyacetophenone (2500 g, 18.4 moles) and a 25% solution of sodium methoxide in methanol (39.1 g, 0.26 moles) in methanol (10,000 g, 312.5 moles), and palladium on carbon catalyst (ESCAT 10, 125 g) were charged. The reactor is purged three times with nitrogen (100 psi). Hydrogen is then charged to a pressure of 300 psi and the reactor is heated to 45° C. The temperature is maintained at 45° C. for three hours at a constant hydrogen pressure of 500 psi. The reactor is cooled to 30° C. and then discharged (12,245 g). The analysis of the solution gave a conversion of 97.6% and a selectivity of 96.0% (note Table 2).

reactant | 4-hydroxyacetophenone | 18.4 moles, 2500 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.26 moles, 39.1 g | CO | CH4O
reactant | methanol | 312.5 moles, 10,000 g | CO | CH4O
catalyst | palladium on carbon | 125 g | [Pd] | Pd
product | 4-Hydroxyphenyl Carbinol | OC1=CC=C(C=C1)CO | C7H8O2
